US05096919
To a mixture of 34.4 g of p-bromoaniline in 400 ml of chloroform is added 200 ml of saturated sodium bicarbonate, followed by 51 g di-t-butyl dicarbonate in 50 ml of chloroform. The mixture is first stirred at room temperature for 4 hours and then heated under reflux overnight to yield 4-(t-butoxycarbonylamino)-bromobenzene, m.p. 101°-103°.

reactant | p-bromoaniline | 34.4 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
reactant | di-t-butyl dicarbonate | 51 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(t-butoxycarbonylamino)-bromobenzene | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)Br | C11H14BrNO2
